US08067445B2
Step 1: {6-Methoxy-2′-[(5-methyl-benzooxazol-2-ylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester and 2-chloro-5-methyl-benzooxazole.

reactant | (2′-aminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN)=O | C19H20F3NO3
reactant | 2-chloro-5-methyl-benzooxazole | ClC=1OC2=C(N1)C=C(C=C2)C | C8H6ClNO
product | {6-Methoxy-2′-[(5-methyl-benzooxazol-2-ylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNC=1OC2=C(N1)C=C(C=C2)C)=O | C27H25F3N2O4
